US08629270B2
(4aR,7aS)-6-(5-Fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine
Pyridine (20 mL, 197 mmol) is added to a mixture of N-[(4aR,7aS)-6-(5-fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (9.5 g, 22 mmol), O-methylhydroxylamine hydrochloride (15 g, 175 mmol) in ethanol (85 mL) and the mixture is stirred at 60° C. for 2 hours. The mixture is cooled to ambient temperature and concentrated. The mixture is diluted with water (100 mL) and ethyl acetate (100 mL) and the pH to 2 using 1 M hydrochloric acid. The aqueous layer is separated and the pH is adjusted to 10 using 2 M sodium hydroxide. The resulting aqueous solution is extracted with ethyl acetate (2×100 mL). The organic layers are combined, dried over magnesium sulfate, filtered, and concentrated. The crude product is purified over silica gel using a 5% solution of dichloromethane/2 M ammonia in methanol. Chiral Analysis of the product; column: Chiralpak AD 0.46×15 cm, 5 μm; eluent: 100% (methanol with 0.2% dimethylethylamine); flow: 0.75 ml/min at UV 254 nm; Rt=6.9 minutes. (4.6 g, 64%, >98% ee). ES/MS (m/e): 330 (M+H).

reactant | Pyridine | 197 mmol, 20 mL | N1=CC=CC=C1 | C5H5N
reactant | N-[(4aR,7aS)-6-(5-fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 22 mmol, 9.5 g | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H20FN5OS
reactant | O-methylhydroxylamine hydrochloride | 175 mmol, 15 g | Cl.CON
solvent | ethanol | 85 mL | C(C)O | C2H6O
product | (4aR,7aS)-6-(5-Fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C1=CC=CC=C1 | C16H16FN5S
